* C:\Fran\ITBA\Electronica Potencia\EPOT-TPs\TP2\Flyback.asc
D1 -Vin N001 D
D3 +Vin N001 D
D4 0 +Vin D
D2 0 -Vin D
C1 N001 0 1mF
V2 N006 0 PULSE(0 15 0 0.001n 0.0001n 3.3u 7.57u)
C2 N003 0 1m
R1 N007 N006 47
R2 N003 0 3.33
L1 N004 N005 43.52m
L2 0 N002 27.2µ
V1 +Vin -Vin SINE(0 300 50)
V3 N004 0 300
D5 N002 N003 MUR460
M1 N005 N007 0 0 2N7002
.model D D
.lib C:\Users\basil\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\basil\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 0 30000u 0 100n
K1 L1 L2 1
.model SW SW(Ron=0.1 Roff=10Meg Vt=.5 Vh=-.4)
.backanno
.end
